US04308258
Sodium methylate (6.5 g, 0.12 mole) was added to a solution of methoxyacetamidine hydrochloride (6.23 g, 0.05 mole) and ethyl ethoxyacetoacetate (8.72 g. 0.05 mole) in methanol (50 ml) at room temperature, and the resulting white suspension liquor was stirred at 45° to 50° C. for 4 hours. The reaction mixture was treated in the same manner as in Example 5. Recrystallization from ether gave 8.5 g of 6-(ethoxymethyl)-4-hydroxy-2-(methoxymethyl)pyrimidine as white needle-like crystals (m.p. 96.5°-98° C.).

reactant | Sodium methylate | 0.12 mole, 6.5 g | C[O-].[Na+]
reactant | methoxyacetamidine hydrochloride | 0.05 mole, 6.23 g | Cl.COCC(=N)N
reactant | ethyl ethoxyacetoacetate | 0.05 mole, 8.72 g | C(C)OCC(CC(=O)OCC)=O | C8H14O4
solvent | methanol | 50 ml | CO | CH4O
product | 6-(ethoxymethyl)-4-hydroxy-2-(methoxymethyl)pyrimidine | 8.5 g | C(C)OCC1=CC(=NC(=N1)COC)O | C9H14N2O3
